US05864043
tert.butyl 4'-[(2-ethyl-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate melting point: 129°-130° C.
tert.butyl 4'-[(7-n-butoxy-2-n-butyl-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate oil, Rf value: 0.55 (Silica gel: methylene chloride/ethanol=19:1)

reactant | tert.butyl 4'-[(7-n-butoxy-2-n-butyl-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)OC1=CC=C(C2=C1N(C(=N2)CCCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)OC(C)(C)C)C | C34H42N2O3
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | tert.butyl 4'-[(2-ethyl-benzimidazol-1-yl)-methyl]-biphenyl-2-carboxylate | C(C)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=CC=C2 | C27H28N2O2
